US07253286B2
N-(4-(6-Cyano-7-((2R)-2-hydroxy-3-pyrrolidin-1-ylpropoxy) quinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea
After adding tetrahydrofuran (2.0ml) and pyrrolidine (0.20 ml) to N-(4-(6-cyano-7-((2R)-oxiran-2-yl)methoxy-quinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea (110 mg), the mixture was heated at 60° C. for 2 hours. After allowing the reaction solution to cool, the precipitated crystals were filtered out to obtain the title compound (18 mg) as light brown crystals.

reactant | pyrrolidine | 0.20 ml | N1CCCC1 | C4H9N
reactant | N-(4-(6-cyano-7-((2R)-oxiran-2-yl)methoxy-quinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea | 110 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H]1OC1)OC1=C(C(=C(C=C1)NC(=O)NC1CC1)C)C | C25H24N4O4
solvent | tetrahydrofuran | 2.0ml | O1CCCC1 | C4H8O
product | N-(4-(6-Cyano-7-((2R)-2-hydroxy-3-pyrrolidin-1-ylpropoxy) quinolin-4-yloxy)-2,3-dimethylphenyl)-N′-cyclopropylurea | 18 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H](CN1CCCC1)O)OC1=C(C(=C(C=C1)NC(=O)NC1CC1)C)C | C29H33N5O4
